US05134123
290 mg (0.72 mmol) of t-butyl (4S,5R)-5-benzoyl-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate in 5 ml of methanol are stirred at room temperature for 1 hour with 27 mg (0.7 mmol) of sodium borohydride. Thereafter, the reaction mixture is treated with two drops of glacial acetic acid and evaporated to dryness. The residue is chromatographed on 30 g of silica gel with a 4:1 mixture of hexane and ether as the eluting agent, with a methylene chloride solution of the crude product being applied to the column. In this manner there are obtained 60 mg of t-butyl (4S,5R)-4-(cyclohexylmethyl)-5-[(S)-α-hydroxybenzyl]-2,2-dimethyl-3-oxazolidinecarboxylate as a white solid, MS: 403 (M)+, as well as 210 mg of the epimeric t-butyl (4S,5R)-4-(cyclohexylmethyl)-5-[(R)-α-hydroxybenzyl]-2,2-dimethyl-3-oxazolidinecarboxylate also as a white solid, MS: 403 (M)+.

reactant | t-butyl (4S,5R)-5-benzoyl-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 0.72 mmol, 290 mg | C(C1=CC=CC=C1)(=O)[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1CCCCC1 | C24H35NO4
reactant | sodium borohydride | 0.7 mmol, 27 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
product | t-butyl (4S,5R)-4-(cyclohexylmethyl)-5-[(S)-α-hydroxybenzyl]-2,2-dimethyl-3-oxazolidinecarboxylate | 60 mg | C1(CCCCC1)C[C@@H]1N(C(O[C@H]1[C@H](C1=CC=CC=C1)O)(C)C)C(=O)OC(C)(C)C | C24H37NO4
